US07405210B2
PdCl2(PPh3)2 (0.026 g, 0.037 mmol) and Cu(|)I (0.007 g, 0.037 mmol) were added sequentially to 5-bromo-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid ethyl ester (Preparation 26, 0.100 g, 0.370 mmol) under an argon atmosphere. 1,4-Dioxane (7 mL, anhydrous) followed by diisopropylamine (0.063 mL, 0.45 mmol) were added and the stirred mixture was purged with argon for 5 min. Trimethylsilylacetylene (0.064 mL, 0.45 mmol) was added dropwise and the resulting mixture stirred at rt for 24 h. The reaction mixture was partitioned between water (50 mL) and ethyl acetate (100 mL) and the layers separated. The aqueous phase was extracted with ethyl acetate (3×30 mL). The combined organics were washed with brine (50 mL), dried (MgSO4), filtered and concentrated in vacuo. The residue was dissolved in the minimum amount of dichloromethane and loaded onto a silica column. Purification via flash column chromatography (SiO2, dichloromethane then 25% ethyl acetate/isohexane) gave a pale yellow solid. δH (CDCl3): 0.28 (9H, s), 1.43 (3H, t), 4.45 (2H, q), 7.18 (1H, s), 7.83 (1H, s), 8.86 (1H, s), 9.21 (1H, br s).

reactant | 5-bromo-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid ethyl ester | 0.370 mmol, 0.100 g | C(C)OC(=O)C1=CC=2C(=CN=C(C2)Br)N1 | C10H9BrN2O2
reactant | diisopropylamine | 0.45 mmol, 0.063 mL | C(C)(C)NC(C)C | C6H15N
reactant | Trimethylsilylacetylene | 0.45 mmol, 0.064 mL | C[Si](C)(C)C#C | C5H10Si
catalyst | PdCl2(PPh3)2 | 0.037 mmol, 0.026 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | 1,4-Dioxane | 7 mL | O1CCOCC1 | C4H8O2
product | ethyl acetate isohexane | 25% | C(C)(=O)OCC.CCCC(C)C | InChI=1S/C6H14.C4H8O2/c1-4-5-6(2)3;1-3-6-4(2)5/h6H,4-5H2,1-3H3;3H2,1-2H3
